US04082850
Reaction of ethyl 4-(2-ethoxycarbonyl-5-fluorobenzyloxy)phenylacetate with potassium hydroxide as described in Example 1c provides 4-(2-carboxy-5-fluorobenzyloxy)phenylacetic acid.

reactant | ethyl 4-(2-ethoxycarbonyl-5-fluorobenzyloxy)phenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)OCC)C=C(C=C1)F | C20H21FO5
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(2-carboxy-5-fluorobenzyloxy)phenylacetic acid | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=C(C=C1)F | C16H13FO5
